US08791129B2
(2-Amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone (“4”)
24.50 g of tert-butyl {2-[2-(1,3-dihydroisoindol-2-yl)-2-oxoacetyl]-4-iodophenyl}carbamate are dissolved in 500 ml of acetonitrile under argon. 0.756 g of caesium fluoride is added, and 16.887 ml of bis(trimethylsilyl)carbodiimide are added dropwise to the solution over the course of 5 min. The mixture is stirred at room temperature for 15 min, and 400 ml of dichloromethane are added. After addition of 400 ml of hydrochloric acid (1N), the product precipitates out as white solid; yield: 14 g of (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone; LC-MS retention time: 1.66 min;

reactant | tert-butyl {2-[2-(1,3-dihydroisoindol-2-yl)-2-oxoacetyl]-4-iodophenyl}carbamate | 24.50 g | C1N(CC2=CC=CC=C12)C(C(=O)C1=C(C=CC(=C1)I)NC(OC(C)(C)C)=O)=O | C21H21IN2O4
reactant | caesium fluoride | 0.756 g | [F-].[Cs+]
reactant | bis(trimethylsilyl)carbodiimide | 16.887 ml | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
reactant | hydrochloric acid | 1N, 400 ml | Cl | ClH
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (2-Amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)I | C17H13IN4O
